US09056859B2
5-Fluoro-2-methoxy-4-[2-oxo-2-(piperazin-1-yl)ethyl]benzonitrile hydrochloride was prepared in two steps from (4-cyano-2-fluoro-5-methoxyphenyl) acetic acid in an analogous fashion to that described for the synthesis of 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride. MS m/z 278 (M+1)+.

reactant | (4-cyano-2-fluoro-5-methoxyphenyl) acetic acid | C(#N)C1=CC(=C(C=C1OC)CC(=O)O)F | C10H8FNO3
reactant | 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC=1C=NC(=CC1)N1N=NN=C1)=O
product | 5-Fluoro-2-methoxy-4-[2-oxo-2-(piperazin-1-yl)ethyl]benzonitrile hydrochloride | Cl.FC=1C(=CC(=C(C#N)C1)OC)CC(N1CCNCC1)=O | InChI=1S/C14H16FN3O2.ClH/c1-20-13-7-10(12(15)6-11(13)9-16)8-14(19)18-4-2-17-3-5-18;/h6-7,17H,2-5,8H2,1H3;1H
